US06512081B1
Preparation of 4-Cyano-4-(thiobenzoylthio)pentanoic Acid
A solution of ethyl acetate (10 mL) containing 4,4′-azobis(4-cyanopentanoic acid) (500 mg) and thiobenzoyl disulfide (612 mg) was placed in a reaction vessel which was degassed by three freeze-evacuate-thaw cycles, sealed under vacuum, and heated at 70° C. for 24 hours. After removal of the volatiles in vacuo, the crude product was subjected to column chromatography (40 g Kieselgel-60, 70-230 mesh) with ethyl acetate:n-hexane:acetonitrile 4:5:1 as eluent, the title compound was obtained as a red oil, 0.51 g (51.2% yield). The product solidified on standing in a freezer at −20° C., m.p. 97-99° C. 1H-nmr (CDCl3) δ (ppm) 1.95 (s, 3H, CH3); 2.40-2.80 (m, 4H, CH2CH2); 7.42 (m, 2H, meta-ArH); 7.60 (m, 1H, para-ArH) and 7.91 (m, 2H, ortho-ArH).

reactant | 4,4′-azobis(4-cyanopentanoic acid) | 500 mg | N(=NC(CCC(=O)O)(C)C#N)C(CCC(=O)O)(C)C#N | C12H16N4O4
reactant | thiobenzoyl disulfide | 612 mg | C(C1=CC=CC=C1)(=S)SSC(C1=CC=CC=C1)=S | C14H10S4
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-Cyano-4-(thiobenzoylthio)pentanoic Acid | 51.2% yield | C(#N)C(CCC(=O)O)(C)SC(C1=CC=CC=C1)=S | C13H13NO2S2
